US04598079
3-(4-diethylaminoethoxyphenyl)-4-formylpiperazin-2-one
29.2 g (0.1 mol) of 3-(4-diethylaminoethoxyphenyl)-piperazin-2-one are acylated by boiling with ethyl formate and the mixture is worked up, as described in Example 5. After being worked up, the product is precipitated as the salt of naphthalene-1,4-disulphonic acid by adding this acid.

reactant | 3-(4-diethylaminoethoxyphenyl)-piperazin-2-one | 0.1 mol, 29.2 g | C(C)N(CC)CCOC1=CC=C(C=C1)C1C(NCCN1)=O | C16H25N3O2
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | 3-(4-diethylaminoethoxyphenyl)-4-formylpiperazin-2-one | C(C)N(CC)CCOC1=CC=C(C=C1)C1C(NCCN1C=O)=O | C17H25N3O3
